US08058269B2
To the mixture of 6-chlorooxindole (16.2 g, 92 mmol) (Crescent) and 4-chlorobenzaldehyde (12.9 g, 92 mmol) (Aldrich) in methanol (100 mL) was added pyrrolidine (6.55 g, 92 mol) (Aldrich) dropwisely. The mixture was then heated at 70° C. for 3 h. After cooling to 4° C., the resulting precipitate was collected and dried to give 21 g of E/Z-6-chloro-3-(4-chloro-benzylidene)-1,3-dihydro-indol-2-one as a bright yellow solid. MS: 291 (M+H)+.

reactant | 6-chlorooxindole | 92 mmol, 16.2 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 4-chlorobenzaldehyde | 92 mmol, 12.9 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | pyrrolidine | 92 mol, 6.55 g | N1CCCC1 | C4H9N
solvent | methanol | 100 mL | CO | CH4O
product | Z-6-chloro-3-(4-chloro-benzylidene)-1,3-dihydro-indol-2-one | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=CC=C(C=C1)Cl | C15H9Cl2NO
